US05342846
(-)-9-Fluoro-3(S)-methyl-10-[3-(1,2,4-triazol-1-yl) pyrrolidin-1-yl]-7-oxo-2,3-dihydro-7H-pyrido-[1,2,3-de]-1,4-benzoxazine-6-carboxylic acid
A suspension of 70.25 mg (0.25 mmol) of (-) -9,10-difluoro-3(S)-methyl-7-oxo-2,3-dihydro-7H-pyrido [1,2,3-de]-1,4-benzoxazine-6-carboxylic acid and 87 mg (0.5 mmol) of 3-(1,2,4-triazol-1-yl)pyrrolidine hydrochloride in 3 ml of acetonitrile in the presence of 76 mg (0.5 mmol) DBU was stirred under nitrogen at reflux condition overnight. The yellow solution was then evaporated to dryness and to the residue, water was added and solid collected. The off-white solid was dissolved in chloroform and the small amounts of the suspension were filtered off. The supernatant was evaporated and to the residue, water was added and solid collected (60 mg), m.p. 229°-231° C. 1H NMR (CDCl3) δ: 8.59 (s, 1H), 8.26 (s, 1H), 7.98 (s, 1H), 7.7 (d, 13.5Hz, 1H), 5.17-5.00 (m, 1H), 4.6-3.73 (m, 7H), 2.67-2.4 (m, 2H), 1.61 (d, 6.7Hz, 3H).

reactant | (-) -9,10-difluoro-3(S)-methyl-7-oxo-2,3-dihydro-7H-pyrido [1,2,3-de]-1,4-benzoxazine-6-carboxylic acid | 0.25 mmol, 70.25 mg | FC=1C(=C2C=3N([C@H](CO2)C)C=C(C(C3C1)=O)C(=O)O)F | C13H9F2NO4
reactant | 3-(1,2,4-triazol-1-yl)pyrrolidine hydrochloride | 0.5 mmol, 87 mg | Cl.N1(N=CN=C1)C1CNCC1
reactant | DBU | 0.5 mmol, 76 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | (-)-9-Fluoro-3(S)-methyl-10-[3-(1,2,4-triazol-1-yl) pyrrolidin-1-yl]-7-oxo-2,3-dihydro-7H-pyrido-[1,2,3-de]-1,4-benzoxazine-6-carboxylic acid | FC=1C(=C2C=3N([C@H](CO2)C)C=C(C(C3C1)=O)C(=O)O)N1CC(CC1)N1N=CN=C1 | C19H18FN5O4
